US06333324B1
A mixture of (2R)-1-tert-butoxycarbonyl-2-ethoxycarbonylpiperazine (1.67 g) and 1N aqueous sodium hydroxide (9.53 ml) in dioxane (16 ml) was stirred for 2 hours at ambient temperature. The mixture was adjusted to pH 5 with 1N HCl on an ice bath. To the mixture was added sodium carbonate (1.35 g), and then methanesulfonyl chloride (873 mg) dropwise on an ice bath. After stirring at the same temperature for 2 hours, the resulting mixture was acidified with 4N HCl, and extracted with AcOEt. The extract was dried over sodium sulfate and concentrated in vacuo to give 1.95 g of (2R)-1-tert-butoxycarbonyl-4-methanesulfonylpiperazine-2-carboxylic acid as an amorphous powder.

reactant | (2R)-1-tert-butoxycarbonyl-2-ethoxycarbonylpiperazine | 1.67 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)C(=O)OCC | C12H22N2O4
reactant | sodium hydroxide | 1N, 9.53 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | sodium carbonate | 1.35 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanesulfonyl chloride | 873 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 16 ml | O1CCOCC1 | C4H8O2
product | (2R)-1-tert-butoxycarbonyl-4-methanesulfonylpiperazine-2-carboxylic acid | 1.95 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)S(=O)(=O)C)C(=O)O | C11H20N2O6S
